US07994185B2
N-[3-(2-(1,1-dimethylethyl)-5-{2-[(2-hydroxyethyl)amino]-4-pyrimidinyl}-1,3-thiazol-4-yl)-2-fluorophenyl]-2,6-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 290 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (250 mg, 0.464 mmol) and 2-aminoethanol (142 mg, 2.31 mmol), the title compound was obtained as a white solid (110 mg, 39%). MS (ESI): 564 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 0.464 mmol, 250 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C23H18ClF3N4O2S2
reactant | 2-aminoethanol | 2.31 mmol, 142 mg | NCCO | C2H7NO
product | N-[3-(2-(1,1-dimethylethyl)-5-{2-[(2-hydroxyethyl)amino]-4-pyrimidinyl}-1,3-thiazol-4-yl)-2-fluorophenyl]-2,6-difluorobenzenesulfonamide | CC(C)(C)C=1SC(=C(N1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F)C1=NC(=NC=C1)NCCO | C25H24F3N5O3S2
